Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-6.14368252121
[C:6]#[C:7][H:8].[O:1][O:2][C:3]([H:4])=[C:5]>>[O:1][O:2][C:3]([H:4])[C:5][C:6]#[C:7][H:8],-6.3499764485500005
[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.06883621566
[H:1][C:2][O:3][C:4]([H:5])[O:6][H:7]>>[C:4]([H:5])[O:6][H:7].[H:1][C:2]=[O:3],0.47426580599
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[H:8],5.11191286331
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9]>>[H:9].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8],5.61986035055
[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.369861987809999
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],4.151649623
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[H:7].[C:8]([H:9])=[C:10]([H:11])[H:12],3.49934987439
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[O:10][O:11][C:12]([H:13])([H:14])[H:15].[H:9],1.84313989876
[H:10].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.86977973176
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9].[O:1],7.116910159289999
[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-1.58899395709
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.45204899887
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10].[H:11]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.29088632322
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])=[C:7][O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3],3.16668319045
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3],5.562780614069999
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:10].[H:1][C:2]#[C:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:11][H:12],3.22479619901
[H:15].[H:1][C:2]([C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.99870267916
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]#[C:9][H:10],2.40583977651
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])=[C:5][H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])[H:12],3.32493443897
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2](=[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.50357408202
[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[H:8].[H:1][C:2]([H:3])[O:4][C:5][C:9]([H:10])([H:11])[H:12],7.2211824714600015
[C:8]([H:9])([H:10])[O:11][C:12][H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13],-0.537998834559
[H:1][O:2][C:3]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.14908226707
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]1([H:8])[O:9][C:10][O:11]1>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]=[O:11],-1.86908889096
[H:1][C:2][O:3][C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2].[O:3]=[C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],5.141571257819999
[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])[H:10]>>[C:2]([O:3][C:4]([H:5])=[C:6][H:7])=[C:8]([H:9])[H:10].[O:1],6.33645727303
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-3.72652209707
